US06180567B2
i-propyl 4-chloro-3-oxo-tetrahydrothiophene-2-carboxylate.
A mixture of 505 g (2.5 mol) of i-propyl 4-methyl-3-oxo-tetrahydrothiophene-2-carboxylate, 497 g (7.2 mol) of hydroxylamine hydrochloride, 753 g (3.8 mol) of barium carbonate and 2.5 litres of isopropanol is heated under reflux for about 12 hours. The mixture is subsequently filtered off with suction, the filter cake is washed with hot isopropanol and the filtrate is concentrated using water pump vacuum. The residue is taken up in 2 litres of diethyl ether, washed twice with water, dried over magnesium sulphate and filtered. The solvent is carefully distilled off from the filtrate using water pump vacuum.

reactant | i-propyl 4-methyl-3-oxo-tetrahydrothiophene-2-carboxylate | 2.5 mol, 505 g | CC1C(C(SC1)C(=O)OC(C)C)=O | C9H14O3S
reactant | hydroxylamine hydrochloride | 7.2 mol, 497 g | Cl.NO
reactant | barium carbonate | 3.8 mol, 753 g | C([O-])([O-])=O.[Ba+2]
solvent | isopropanol | 2.5 litres | C(C)(C)O | C3H8O
product | i-propyl 4-chloro-3-oxo-tetrahydrothiophene-2-carboxylate | ClC1C(C(SC1)C(=O)OC(C)C)=O | C8H11ClO3S
